US07294622B2
c. Benzyl cis-2-(2,5-difluorophenyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepin-3-ylcarbamate (1c)
A suspension of methyl β-[(2-aminophenyl)thio]-N-[(benzyloxy)carbonyl]-2,5-difluorophenylalaninate (4:1, Z:E) (4.3 g) and p-toluenesulfonic acid (catalytic) in xylenes (100 mL) was heated to reflux for 2 h, using a Dean-Stark apparatus to remove water. The mixture was then cooled, resulting in precipitation of the crude product as a white solid (3.3 g, 4:1, cis:trans). This was recrystallized from ethyl acetate/ether to afford the title compound (2.4 g, 60%). 1H NMR (300 MHz, d6-DMSO) δ 4.63 (t, 1H), 4.96 (s, 2H), 5.47 (d, 1H), 7.00 (d, 1H),7.23-7.34 (m, 9H), 7.49-7.53 (m, 2H), 7.70 (d, 1H), 10.57(s, 1H). MS APCI, m/z=441 (M+1). LC/MS: 2.74 min.

reactant | methyl β-[(2-aminophenyl)thio]-N-[(benzyloxy)carbonyl]-2,5-difluorophenylalaninate | 4.3 g | NC1=C(C=CC=C1)SC([C@H](NC(=O)OCC1=CC=CC=C1)C(=O)OC)C1=C(C=CC(=C1)F)F | C24H22F2N2O4S
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | Benzyl cis-2-(2,5-difluorophenyl)-4-oxo-2,3,4,5-tetrahydro-1,5-benzothiazepin-3-ylcarbamate | 2.4 g, 60% | FC1=C(C=C(C=C1)F)[C@@H]1SC2=C(NC([C@@H]1NC(OCC1=CC=CC=C1)=O)=O)C=CC=C2 | C23H18F2N2O3S
